* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.001572259203365546
Fd1_1 0 s1 V1 0.0786129601682773
Gr1_1_1 0 s1 x1_a1 0 16338823975.322086
Gr2_re_1_1 0 s1 x2_re_a1 0 -5440791987.150422
Gr2_im_1_1 0 s1 x2_im_a1 0 9628412303.219526
Gr3_re_1_1 0 s1 x3_re_a1 0 -653131317.9839699
Gr3_im_1_1 0 s1 x3_im_a1 0 2134003405.0842123
Gr4_re_1_1 0 s1 x4_re_a1 0 -3773592924.813778
Gr4_im_1_1 0 s1 x4_im_a1 0 -5628410968.442757
Gr5_re_1_1 0 s1 x5_re_a1 0 20530753.06754049
Gr5_im_1_1 0 s1 x5_im_a1 0 7227190.81807148
Gr6_re_1_1 0 s1 x6_re_a1 0 8140537054.160298
Gr6_im_1_1 0 s1 x6_im_a1 0 -4820038216.715344
Gr7_re_1_1 0 s1 x7_re_a1 0 13259261783.867275
Gr7_im_1_1 0 s1 x7_im_a1 0 9362343839.972738
Gr8_re_1_1 0 s1 x8_re_a1 0 -14381833982.055933
Gr8_im_1_1 0 s1 x8_im_a1 0 15669739561.389788
Gr9_re_1_1 0 s1 x9_re_a1 0 -9646174463.916294
Gr9_im_1_1 0 s1 x9_im_a1 0 -3480624387.6582584
Gr10_re_1_1 0 s1 x10_re_a1 0 -9836443285.157772
Gr10_im_1_1 0 s1 x10_im_a1 0 -4741342256.044238
Gr11_re_1_1 0 s1 x11_re_a1 0 1623826865.1815321
Gr11_im_1_1 0 s1 x11_im_a1 0 -575333513.4447516
Gr12_re_1_1 0 s1 x12_re_a1 0 105414428.87865019
Gr12_im_1_1 0 s1 x12_im_a1 0 -3131169.1138032954
Gr13_re_1_1 0 s1 x13_re_a1 0 18885988.495979924
Gr13_im_1_1 0 s1 x13_im_a1 0 -23440984.068225652
Gr14_re_1_1 0 s1 x14_re_a1 0 -3207781564.7567997
Gr14_im_1_1 0 s1 x14_im_a1 0 893743268.870683
Gr15_re_1_1 0 s1 x15_re_a1 0 3538829936.83704
Gr15_im_1_1 0 s1 x15_im_a1 0 -11610251321.486322
Gr16_re_1_1 0 s1 x16_re_a1 0 -5166987.785012767
Gr16_im_1_1 0 s1 x16_im_a1 0 72325805.36997716
Gr17_re_1_1 0 s1 x17_re_a1 0 7448108576.664817
Gr17_im_1_1 0 s1 x17_im_a1 0 5524024053.712975
Gr18_re_1_1 0 s1 x18_re_a1 0 5925960758.947698
Gr18_im_1_1 0 s1 x18_im_a1 0 -8980133293.514656
Gr19_re_1_1 0 s1 x19_re_a1 0 4321031162.765828
Gr19_im_1_1 0 s1 x19_im_a1 0 -1499189483.8183868
Gr20_re_1_1 0 s1 x20_re_a1 0 35485902.526026465
Gr20_im_1_1 0 s1 x20_im_a1 0 -94135819.56492117
Gr21_re_1_1 0 s1 x21_re_a1 0 138318.96340167575
Gr21_im_1_1 0 s1 x21_im_a1 0 5365241.011562401
Gd1_2 0 s1 p2 0 0.002562435002273415
Fd1_2 0 s1 V2 0.12812175011367075
Gr1_1_2 0 s1 x1_a2 0 -33727138075.19047
Gr2_re_1_2 0 s1 x2_re_a2 0 4990683663.65346
Gr2_im_1_2 0 s1 x2_im_a2 0 13354786660.93154
Gr3_re_1_2 0 s1 x3_re_a2 0 263997742.1325952
Gr3_im_1_2 0 s1 x3_im_a2 0 -110123210.32648842
Gr4_re_1_2 0 s1 x4_re_a2 0 1059959538.2091264
Gr4_im_1_2 0 s1 x4_im_a2 0 504614850.3064075
Gr5_re_1_2 0 s1 x5_re_a2 0 19276549.644868143
Gr5_im_1_2 0 s1 x5_im_a2 0 6956973.845765025
Gr6_re_1_2 0 s1 x6_re_a2 0 958778959.4010097
Gr6_im_1_2 0 s1 x6_im_a2 0 1730107160.5515642
Gr7_re_1_2 0 s1 x7_re_a2 0 670497481.4476837
Gr7_im_1_2 0 s1 x7_im_a2 0 5065729141.647098
Gr8_re_1_2 0 s1 x8_re_a2 0 -9666753831.002565
Gr8_im_1_2 0 s1 x8_im_a2 0 3902742581.8109503
Gr9_re_1_2 0 s1 x9_re_a2 0 -6936572573.744105
Gr9_im_1_2 0 s1 x9_im_a2 0 -4045424534.1671267
Gr10_re_1_2 0 s1 x10_re_a2 0 -6844186229.6256075
Gr10_im_1_2 0 s1 x10_im_a2 0 -6902146332.695968
Gr11_re_1_2 0 s1 x11_re_a2 0 611220088.72265
Gr11_im_1_2 0 s1 x11_im_a2 0 660876047.6053169
Gr12_re_1_2 0 s1 x12_re_a2 0 51692874.5278589
Gr12_im_1_2 0 s1 x12_im_a2 0 -190204906.06492832
Gr13_re_1_2 0 s1 x13_re_a2 0 8585977.329390012
Gr13_im_1_2 0 s1 x13_im_a2 0 -8098546.14300334
Gr14_re_1_2 0 s1 x14_re_a2 0 3741840526.6190333
Gr14_im_1_2 0 s1 x14_im_a2 0 2160109148.131148
Gr15_re_1_2 0 s1 x15_re_a2 0 5024982347.907213
Gr15_im_1_2 0 s1 x15_im_a2 0 -7839432572.417755
Gr16_re_1_2 0 s1 x16_re_a2 0 25271926.032418564
Gr16_im_1_2 0 s1 x16_im_a2 0 -762560.9823151673
Gr17_re_1_2 0 s1 x17_re_a2 0 4844510717.303275
Gr17_im_1_2 0 s1 x17_im_a2 0 -4774720269.89866
Gr18_re_1_2 0 s1 x18_re_a2 0 2263142704.555681
Gr18_im_1_2 0 s1 x18_im_a2 0 -5769836489.949164
Gr19_re_1_2 0 s1 x19_re_a2 0 757827156.6320119
Gr19_im_1_2 0 s1 x19_im_a2 0 -2054800213.5166523
Gr20_re_1_2 0 s1 x20_re_a2 0 7074630.923125373
Gr20_im_1_2 0 s1 x20_im_a2 0 -11262326.796160545
Gr21_re_1_2 0 s1 x21_re_a2 0 2746554.289878706
Gr21_im_1_2 0 s1 x21_im_a2 0 -6541179.9067201335
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.5328182184754519e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 3.432301566914514e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 531654407591.2748
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -531654407591.2748
Rp2_im_im_a1 0 x2_im_a1 3.432301566914514e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.355518725104983e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 439366350160.51715
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -439366350160.51715
Rp3_im_im_a1 0 x3_im_a1 2.355518725104983e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.498371163222601e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 445773859625.8078
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -445773859625.8078
Rp4_im_im_a1 0 x4_im_a1 1.498371163222601e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.47904706212159e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 450325241977.6096
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -450325241977.6096
Rp5_im_im_a1 0 x5_im_a1 2.47904706212159e-08
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.5043127198193239e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 453897481762.43195
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -453897481762.43195
Rp6_im_im_a1 0 x6_im_a1 1.5043127198193239e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.2720943765374986e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 463203704407.2035
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -463203704407.2035
Rp7_im_im_a1 0 x7_im_a1 1.2720943765374986e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.04663634576993e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 470469747093.4617
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -470469747093.4617
Rp8_im_im_a1 0 x8_im_a1 1.04663634576993e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.1490191965633987e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 478786882487.54
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -478786882487.54
Rp9_im_im_a1 0 x9_im_a1 1.1490191965633987e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.179678153171962e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 487959306893.1255
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -487959306893.1255
Rp10_im_im_a1 0 x10_im_a1 1.179678153171962e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 2.047935307660277e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 532729521059.6385
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -532729521059.6385
Rp11_im_im_a1 0 x11_im_a1 2.047935307660277e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 6.518935236976442e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 523768861164.64
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -523768861164.64
Rp12_im_im_a1 0 x12_im_a1 6.518935236976442e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 1.6675905944358157e-07
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 525713222113.1426
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -525713222113.1426
Rp13_im_im_a1 0 x13_im_a1 1.6675905944358157e-07
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 1.6634221456070083e-10
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 525211260380.84296
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -525211260380.84296
Rp14_im_im_a1 0 x14_im_a1 1.6634221456070083e-10
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 1.174097061556939e-10
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 493729720749.5199
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -493729720749.5199
Rp15_im_im_a1 0 x15_im_a1 1.174097061556939e-10
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 1.6273949008757055e-09
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 498270938314.74274
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -498270938314.74274
Rp16_im_im_a1 0 x16_im_a1 1.6273949008757055e-09
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 1.4645742299280321e-10
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 519381164761.09106
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -519381164761.09106
Rp17_im_im_a1 0 x17_im_a1 1.4645742299280321e-10
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 1.237222766366564e-10
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 505270568244.4336
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -505270568244.4336
Rp18_im_im_a1 0 x18_im_a1 1.237222766366564e-10
Cx19_re_a1 x19_re_a1 0 1.0
Gx19_re_a1 0 x19_re_a1 p1 0 0.1414213562373095
Fx19_re_a1 0 x19_re_a1 V1 7.0710678118654755
Rp19_re_re_a1 0 x19_re_a1 2.0790984816819958e-10
Gp19_re_im_a1 0 x19_re_a1 x19_im_a1 0 513114478713.7597
Cx19_im_a1 x19_im_a1 0 1.0
Gp19_im_re_a1 0 x19_im_a1 x19_re_a1 0 -513114478713.7597
Rp19_im_im_a1 0 x19_im_a1 2.0790984816819958e-10
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 1.0284907524867866e-08
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 509164788885.8299
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -509164788885.8299
Rp20_im_im_a1 0 x20_im_a1 1.0284907524867866e-08
Cx21_re_a1 x21_re_a1 0 1.0
Gx21_re_a1 0 x21_re_a1 p1 0 0.1414213562373095
Fx21_re_a1 0 x21_re_a1 V1 7.0710678118654755
Rp21_re_re_a1 0 x21_re_a1 2.5650345036677593e-07
Gp21_re_im_a1 0 x21_re_a1 x21_im_a1 0 509913115167.59827
Cx21_im_a1 x21_im_a1 0 1.0
Gp21_im_re_a1 0 x21_im_a1 x21_re_a1 0 -509913115167.59827
Rp21_im_im_a1 0 x21_im_a1 2.5650345036677593e-07
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.002562435002273415
Fd2_1 0 s2 V1 0.12812175011367075
Gr1_2_1 0 s2 x1_a1 0 -33727138075.190456
Gr2_re_2_1 0 s2 x2_re_a1 0 4990683663.653434
Gr2_im_2_1 0 s2 x2_im_a1 0 13354786660.93149
Gr3_re_2_1 0 s2 x3_re_a1 0 263997742.13259962
Gr3_im_2_1 0 s2 x3_im_a1 0 -110123210.32648647
Gr4_re_2_1 0 s2 x4_re_a1 0 1059959538.2091167
Gr4_im_2_1 0 s2 x4_im_a1 0 504614850.3064185
Gr5_re_2_1 0 s2 x5_re_a1 0 19276549.64486797
Gr5_im_2_1 0 s2 x5_im_a1 0 6956973.845764883
Gr6_re_2_1 0 s2 x6_re_a1 0 958778959.4009973
Gr6_im_2_1 0 s2 x6_im_a1 0 1730107160.5515592
Gr7_re_2_1 0 s2 x7_re_a1 0 670497481.4476671
Gr7_im_2_1 0 s2 x7_im_a1 0 5065729141.647084
Gr8_re_2_1 0 s2 x8_re_a1 0 -9666753831.00255
Gr8_im_2_1 0 s2 x8_im_a1 0 3902742581.8109164
Gr9_re_2_1 0 s2 x9_re_a1 0 -6936572573.744084
Gr9_im_2_1 0 s2 x9_im_a1 0 -4045424534.167133
Gr10_re_2_1 0 s2 x10_re_a1 0 -6844186229.625586
Gr10_im_2_1 0 s2 x10_im_a1 0 -6902146332.695975
Gr11_re_2_1 0 s2 x11_re_a1 0 611220088.7226502
Gr11_im_2_1 0 s2 x11_im_a1 0 660876047.6053123
Gr12_re_2_1 0 s2 x12_re_a1 0 51692874.52785737
Gr12_im_2_1 0 s2 x12_im_a1 0 -190204906.06492794
Gr13_re_2_1 0 s2 x13_re_a1 0 8585977.329390021
Gr13_im_2_1 0 s2 x13_im_a1 0 -8098546.143003219
Gr14_re_2_1 0 s2 x14_re_a1 0 3741840526.619013
Gr14_im_2_1 0 s2 x14_im_a1 0 2160109148.1311183
Gr15_re_2_1 0 s2 x15_re_a1 0 5024982347.907234
Gr15_im_2_1 0 s2 x15_im_a1 0 -7839432572.417739
Gr16_re_2_1 0 s2 x16_re_a1 0 25271926.032418434
Gr16_im_2_1 0 s2 x16_im_a1 0 -762560.9823150533
Gr17_re_2_1 0 s2 x17_re_a1 0 4844510717.303214
Gr17_im_2_1 0 s2 x17_im_a1 0 -4774720269.898606
Gr18_re_2_1 0 s2 x18_re_a1 0 2263142704.55573
Gr18_im_2_1 0 s2 x18_im_a1 0 -5769836489.949136
Gr19_re_2_1 0 s2 x19_re_a1 0 757827156.6320204
Gr19_im_2_1 0 s2 x19_im_a1 0 -2054800213.516607
Gr20_re_2_1 0 s2 x20_re_a1 0 7074630.923126252
Gr20_im_2_1 0 s2 x20_im_a1 0 -11262326.796160532
Gr21_re_2_1 0 s2 x21_re_a1 0 2746554.289878642
Gr21_im_2_1 0 s2 x21_im_a1 0 -6541179.906720079
Gd2_2 0 s2 p2 0 -0.030117534544924197
Fd2_2 0 s2 V2 -1.50587672724621
Gr1_2_2 0 s2 x1_a2 0 433479186257.1505
Gr2_re_2_2 0 s2 x2_re_a2 0 -66667003033.63149
Gr2_im_2_2 0 s2 x2_im_a2 0 -155068387722.9967
Gr3_re_2_2 0 s2 x3_re_a2 0 -3918622379.1395864
Gr3_im_2_2 0 s2 x3_im_a2 0 3502082439.225341
Gr4_re_2_2 0 s2 x4_re_a2 0 -17034687487.449217
Gr4_im_2_2 0 s2 x4_im_a2 0 -11858311997.145277
Gr5_re_2_2 0 s2 x5_re_a2 0 -220711728.50795278
Gr5_im_2_2 0 s2 x5_im_a2 0 -98980895.69655882
Gr6_re_2_2 0 s2 x6_re_a2 0 -3688061577.1855006
Gr6_im_2_2 0 s2 x6_im_a2 0 -26456527544.734917
Gr7_re_2_2 0 s2 x7_re_a2 0 5234759018.277039
Gr7_im_2_2 0 s2 x7_im_a2 0 -53478257200.08251
Gr8_re_2_2 0 s2 x8_re_a2 0 105765977782.66681
Gr8_im_2_2 0 s2 x8_im_a2 0 -32427286890.571735
Gr9_re_2_2 0 s2 x9_re_a2 0 76289289732.02814
Gr9_im_2_2 0 s2 x9_im_a2 0 47244110507.76213
Gr10_re_2_2 0 s2 x10_re_a2 0 74597967403.12471
Gr10_im_2_2 0 s2 x10_im_a2 0 81563178739.09247
Gr11_re_2_2 0 s2 x11_re_a2 0 -5880951154.475244
Gr11_im_2_2 0 s2 x11_im_a2 0 -8679303522.075584
Gr12_re_2_2 0 s2 x12_re_a2 0 -537985819.6209934
Gr12_im_2_2 0 s2 x12_im_a2 0 2378634808.193374
Gr13_re_2_2 0 s2 x13_re_a2 0 -82436127.92689015
Gr13_im_2_2 0 s2 x13_im_a2 0 78369436.32375078
Gr14_re_2_2 0 s2 x14_re_a2 0 -49380008857.574715
Gr14_im_2_2 0 s2 x14_im_a2 0 -25810569548.2668
Gr15_re_2_2 0 s2 x15_re_a2 0 -59812700310.050735
Gr15_im_2_2 0 s2 x15_im_a2 0 85191375095.26341
Gr16_re_2_2 0 s2 x16_re_a2 0 -327123081.8771878
Gr16_im_2_2 0 s2 x16_im_a2 0 79672623.63340099
Gr17_re_2_2 0 s2 x17_re_a2 0 -51608751867.27376
Gr17_im_2_2 0 s2 x17_im_a2 0 64248812547.22639
Gr18_re_2_2 0 s2 x18_re_a2 0 -23062166656.875473
Gr18_im_2_2 0 s2 x18_im_a2 0 61602221761.993355
Gr19_re_2_2 0 s2 x19_re_a2 0 -4992442239.18867
Gr19_im_2_2 0 s2 x19_im_a2 0 23203562145.968117
Gr20_re_2_2 0 s2 x20_re_a2 0 -89605700.01172376
Gr20_im_2_2 0 s2 x20_im_a2 0 89212816.41936336
Gr21_re_2_2 0 s2 x21_re_a2 0 -9460599.3253436
Gr21_im_2_2 0 s2 x21_im_a2 0 7255863.621353934
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.5328182184754519e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 3.432301566914514e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 531654407591.2748
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -531654407591.2748
Rp2_im_im_a2 0 x2_im_a2 3.432301566914514e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.355518725104983e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 439366350160.51715
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -439366350160.51715
Rp3_im_im_a2 0 x3_im_a2 2.355518725104983e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.498371163222601e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 445773859625.8078
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -445773859625.8078
Rp4_im_im_a2 0 x4_im_a2 1.498371163222601e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.47904706212159e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 450325241977.6096
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -450325241977.6096
Rp5_im_im_a2 0 x5_im_a2 2.47904706212159e-08
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.5043127198193239e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 453897481762.43195
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -453897481762.43195
Rp6_im_im_a2 0 x6_im_a2 1.5043127198193239e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.2720943765374986e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 463203704407.2035
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -463203704407.2035
Rp7_im_im_a2 0 x7_im_a2 1.2720943765374986e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.04663634576993e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 470469747093.4617
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -470469747093.4617
Rp8_im_im_a2 0 x8_im_a2 1.04663634576993e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.1490191965633987e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 478786882487.54
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -478786882487.54
Rp9_im_im_a2 0 x9_im_a2 1.1490191965633987e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.179678153171962e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 487959306893.1255
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -487959306893.1255
Rp10_im_im_a2 0 x10_im_a2 1.179678153171962e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 2.047935307660277e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 532729521059.6385
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -532729521059.6385
Rp11_im_im_a2 0 x11_im_a2 2.047935307660277e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 6.518935236976442e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 523768861164.64
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -523768861164.64
Rp12_im_im_a2 0 x12_im_a2 6.518935236976442e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 1.6675905944358157e-07
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 525713222113.1426
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -525713222113.1426
Rp13_im_im_a2 0 x13_im_a2 1.6675905944358157e-07
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 1.6634221456070083e-10
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 525211260380.84296
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -525211260380.84296
Rp14_im_im_a2 0 x14_im_a2 1.6634221456070083e-10
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 1.174097061556939e-10
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 493729720749.5199
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -493729720749.5199
Rp15_im_im_a2 0 x15_im_a2 1.174097061556939e-10
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 1.6273949008757055e-09
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 498270938314.74274
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -498270938314.74274
Rp16_im_im_a2 0 x16_im_a2 1.6273949008757055e-09
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 1.4645742299280321e-10
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 519381164761.09106
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -519381164761.09106
Rp17_im_im_a2 0 x17_im_a2 1.4645742299280321e-10
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 1.237222766366564e-10
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 505270568244.4336
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -505270568244.4336
Rp18_im_im_a2 0 x18_im_a2 1.237222766366564e-10
Cx19_re_a2 x19_re_a2 0 1.0
Gx19_re_a2 0 x19_re_a2 p2 0 0.1414213562373095
Fx19_re_a2 0 x19_re_a2 V2 7.0710678118654755
Rp19_re_re_a2 0 x19_re_a2 2.0790984816819958e-10
Gp19_re_im_a2 0 x19_re_a2 x19_im_a2 0 513114478713.7597
Cx19_im_a2 x19_im_a2 0 1.0
Gp19_im_re_a2 0 x19_im_a2 x19_re_a2 0 -513114478713.7597
Rp19_im_im_a2 0 x19_im_a2 2.0790984816819958e-10
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 1.0284907524867866e-08
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 509164788885.8299
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -509164788885.8299
Rp20_im_im_a2 0 x20_im_a2 1.0284907524867866e-08
Cx21_re_a2 x21_re_a2 0 1.0
Gx21_re_a2 0 x21_re_a2 p2 0 0.1414213562373095
Fx21_re_a2 0 x21_re_a2 V2 7.0710678118654755
Rp21_re_re_a2 0 x21_re_a2 2.5650345036677593e-07
Gp21_re_im_a2 0 x21_re_a2 x21_im_a2 0 509913115167.59827
Cx21_im_a2 x21_im_a2 0 1.0
Gp21_im_re_a2 0 x21_im_a2 x21_re_a2 0 -509913115167.59827
Rp21_im_im_a2 0 x21_im_a2 2.5650345036677593e-07
.ENDS s_equivalent
